US08563575B2
134d) ethyl (2-chloro-3H-imidazo[4,5-b]pyridin-3-yl)acetate
A mixture of ethyl (2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)acetate (14.5 g) and phosphoryl chloride (100 mL) was stirred at 100° C. overnight. The mixture was poured into ice, neutralized with saturated sodium bicarbonate solution and extracted with AcOEt. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was diluted with AcOEt and insoluble crystals were removed by filtration. The filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (silica gel, eluted with 10%-40% AcOEt in hexane) to give the title compound (5.46 g).

reactant | ethyl (2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)acetate | 14.5 g | O=C1NC=2C(=NC=CC2)N1CC(=O)OCC | C10H11N3O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | phosphoryl chloride | 100 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl (2-chloro-3H-imidazo[4,5-b]pyridin-3-yl)acetate | 5.46 g | ClC1=NC=2C(=NC=CC2)N1CC(=O)OCC | C10H10ClN3O2
